US04022775
Methyl 5,6-dihydro-2-(2-methoxy-1-nitro-2-oxoethylidene)-2H-1,3-thiazine-3(4H)-carboxylate (3)
At 0° a solution of 16.0 g of methyl chloroformate in THF was added dropwise to a solution of the sodium derivative of 32.7 g of methyl nitro(tetrahydro-2H-1,3-thiazin-2-ylidene)acetate (3A; Example 2, Ser. No. 554,371) in THF. The stirred solution was then allowed to warm to room temperature and stirred overnight. The solvent was evaporated under reduced pressure and the residue was poured into ether. The ether phase was washed with water, dried (MgSO4) and the solvent evaporated under reduced pressure. The resulting oil was mixed with pentane to give 3, as yellow crystals, m.p.: 71°-2°.

reactant | methyl chloroformate | 16.0 g | ClC(=O)OC | C2H3ClO2
reactant | sodium | [Na] | Na
reactant | methyl nitro(tetrahydro-2H-1,3-thiazin-2-ylidene)acetate | 32.7 g | [N+](=O)([O-])C(C(=O)OC)=C1SCCCN1 | C7H10N2O4S
solvent | THF | C1CCOC1 | C4H8O
product | Methyl 5,6-dihydro-2-(2-methoxy-1-nitro-2-oxoethylidene)-2H-1,3-thiazine-3(4H)-carboxylate | COC(C([N+](=O)[O-])=C1SCCCN1C(=O)OC)=O | C9H12N2O6S
